US04515799
2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-methylthiazole
A solution of 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}-thioacetamide (0.44 g) and chloroacetone (0.30 g) in ethanol (30 ml) was heated under reflux for 7 hours and then evaporated. The residual oil was purified by chromatography on silica (t.l.c. grade, 10 g) using dichloromethane plus 0-10% v/v ethyl acetate as eluant. Appropriate fractions were combined and evaporated and the residue triturated with diisopropyl ether. The resulting solid was collected, washed with petroleum ether (b.p. 60°-80° C.) and dried to give the title compound (78 mg), m.p. 107°-110° C.

reactant | 2-{[4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxy}-thioacetamide | 0.44 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC(=S)N)C(=O)OCC | C20H23ClN2O5S
reactant | chloroacetone | 0.30 g | ClCC(C)=O | C3H5ClO
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-{[4-(2-Chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridin-2-yl]methoxymethyl}-4-methylthiazole | 78 mg | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCC=1SC=C(N1)C)C(=O)OCC | C23H25ClN2O5S
